US08278320B2
In a sealed tube was added 4-chloro-7-methylthieno[3,2-d]pyrimidine (2.0 g, 10.83 mmol) and ammonium hydroxide (12.65 mmol, 325 mmol) in butanol (7 ml). The reaction was heated to 90 C for 4 hours and then cooled to room temperature. The resulting white precipitate was collected to give 7-methylthieno[3,2-d]pyrimidin-4-amine (1.4 g, 78% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.41 (1H, s), 7.74 (1H, s), 7.34 (2H, s), 2.34 (3H, d, J=1.00 Hz).

reactant | 4-chloro-7-methylthieno[3,2-d]pyrimidine | 10.83 mmol, 2.0 g | ClC=1C2=C(N=CN1)C(=CS2)C | C7H5ClN2S
reactant | ammonium hydroxide | 12.65 mmol | [OH-].[NH4+]
solvent | butanol | 7 ml | C(CCC)O | C4H10O
product | 7-methylthieno[3,2-d]pyrimidin-4-amine | 1.4 g, 78% yield | CC1=CSC2=C1N=CN=C2N | C7H7N3S
